US08461134B2
A solution of 1-(bromomethyl)-3-nitrobenzene (30 g, 0.139 mol) and NaCN (10.21 g, 0.208 mol) in DMF (150 mL) was stirred at 50° C. for 5 hrs. The mixture was poured into water and extracted with ethyl acetate. The combined organic layer were dried, concentrated and purified by silica-gel column chromatography (PE:EA 20:1˜6:1) to give compound 2-(3-nitrophenyl)acetonitrile (9.9 g, yield 44%).

reactant | 1-(bromomethyl)-3-nitrobenzene | 0.139 mol, 30 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | NaCN | 0.208 mol, 10.21 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(3-nitrophenyl)acetonitrile | 9.9 g, yield 44% | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
